US07253194B2
(R)-5-[1-(3-Phenyl-allyl)-1H-indol-3-yl]-4-(7-phenyl-heptanoylamino)-pent-2-enoic acid methyl ester (16)
A solution of 7-phenylheptanoic acid (87 mg, 0.422 mmol), BOP (205 mg, 0.464 mmol) and DIPEA (65.38 mg, 88 μL, 0.506 mmol) in THF (2.5 mL) was stirred for 10 min. To this was added a solution of the trifluoroacetic acid salt of 4-amino-5-[1-(3-phenyl-allyl)-1H-indol-3-yl]-pent-2-enoic acid methyl ester (200 mg, 0.422 mmol) and DIPEA (163 mg, 220 μL, 1.27 mmol) in THF (2.5 mL). The mixture was stirred overnight at room temperature. The solvent was removed and the crude material subject to column chromatography (50% EtOAc/petroleum ether, Rf 0.66) to afford the title compound (133 mg, 55%). 1H NMR (CDCl3) δ 7.58 (1H, d, J=8.1 Hz), 7.36-7.09 (12H, m), 7.02-6.95 (2H, m), 6.45 (1H, d, J=15.78 Hz), 6.29 (1H, dt, J=5.63, 15.78 Hz), 5.82 (1H, d, J=15.69 Hz), 5.52 (1H, d, J=8.25 Hz), 5.01-5.09 (1H, m), 4.82 (2H, d, J=5.49 Hz), 3.66 (3H, s), 3.12 (1H, dd, J=6.35, 14.69 Hz), 3.04 (1H, dd, J=6.17, 14.69 Hz), 2.55 (2H, t, J=7.69 Hz), 2.07 (2H, t, J=7.64 Hz), 1.59-1.46 (4H, m), 1.25-1.23 (4H, m). 13C NMR (CDCl3) δ 172.5, 166.6, 148.1, 142.7, 136.4, 136.1, 132.5, 128.6, 128.4, 128.2, 127.9, 126.5, 125.6, 124.6, 120.8, 122.0, 119.5, 118.8, 109.8, 109.2, 51.6, 50.2, 48.3, 36.7, 35.8, 31.2, 29.9, 29.0, 28.9, 25.4. ISMS: 549 (M+H).

reactant | 7-phenylheptanoic acid | 0.422 mmol, 87 mg | C1(=CC=CC=C1)CCCCCCC(=O)O | C13H18O2
reactant | BOP | 0.464 mmol, 205 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIPEA | 0.506 mmol, 88 μL, 65.38 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-amino-5-[1-(3-phenyl-allyl)-1H-indol-3-yl]-pent-2-enoic acid methyl ester | 0.422 mmol, 200 mg | COC(C=CC(CC1=CN(C2=CC=CC=C12)CC=CC1=CC=CC=C1)N)=O | C23H24N2O2
reactant | DIPEA | 1.27 mmol, 220 μL, 163 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | (R)-5-[1-(3-Phenyl-allyl)-1H-indol-3-yl]-4-(7-phenyl-heptanoylamino)-pent-2-enoic acid methyl ester | 133 mg, 55% | COC(C=C[C@@H](CC1=CN(C2=CC=CC=C12)CC=CC1=CC=CC=C1)NC(CCCCCCC1=CC=CC=C1)=O)=O | C36H40N2O3
